US06265426B1
5-(4-Methylsulfanyl-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride salt (1:1) (mixture of tautomers)
To a stirred ethanolic suspension of 3-pyrrolidin-1-ylmethyl-benzamidine hydrochloride salt (1:2) (414 mg, 1.5 mmol, 1.5 eq.) in 15 ml ethanol was added over 3 minutes 1.2N NaOEt in ethanol (3.4 ml, 4 eq.) and stirring was continued for 30 min. at r.t. 4-Methylsulfanyl-benzoic acid hydrazide (182 mg, 1 mmol) in ethanol at 20° C. was then added and the mixture heated to reflux for 50 hrs. Upon cooling the product mixture was filtered, solvent evaporated and residue chromatographed over 20 g SiO2 (Merck 230-400 mesh) with CH2Cl2-MeOH (2M NH3) 96:4, affording a foam after solvent evaporation. This material was dissolved in ethanol at r.t. and an excess 2N HCl/ether solution (1.0 ml, 2 mmol) was added. After 30 min. the solvent was evaporated and the residue was dried overnight under high vacuum at 30° C. affording the title compound (200 mg, 52% yield) as a yellow foam. MS: m/e=351.5 (M+H+).

reactant | 3-pyrrolidin-1-ylmethyl-benzamidine hydrochloride salt | 1.5 mmol, 414 mg, 1.5 eq. | Cl.N1(CCCC1)CC=1C=C(C(=N)N)C=CC1
reactant | NaOEt | 1.2N | CC[O-].[Na+]
reactant | 4-Methylsulfanyl-benzoic acid hydrazide | 1 mmol, 182 mg | CSC1=CC=C(C(=O)NN)C=C1 | C8H10N2OS
reactant | HCl ether | 2 mmol, 2N, 1.0 ml | Cl.CCOCC
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 3.4 ml, 4 eq. | C(C)O | C2H6O
product | 5-(4-Methylsulfanyl-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride salt | 200 mg, 52% yield | Cl.CSC1=CC=C(C=C1)C1=NC(=NN1)C1=CC(=CC=C1)CN1CCCC1 | InChI=1S/C20H22N4S.ClH/c1-25-18-9-7-16(8-10-18)19-21-20(23-22-19)17-6-4-5-15(13-17)14-24-11-2-3-12-24;/h4-10,13H,2-3,11-12,14H2,1H3,(H,21,22,23);1H
